US03954754
EXAMPLE 15: 6-(3,4-Dichlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
The 3-chloro-6-(3,4-dichlorobenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine, required as starting material, may be obtained in a manner analogous to that described in Example 8 (g), from 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and 3,4-dichlorobenzoyl chloride. M.P. 188°-191° (decomp., from dimethyl formamide).

reactant | 3-chloro-6-(3,4-dichlorobenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | ClC1=CC2=C(N=N1)CCN(C2)C(C2=CC(=C(C=C2)Cl)Cl)=O | C14H10Cl3N3O
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 6-(3,4-Dichlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | ClC=1C=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=CC1Cl | C14H13Cl2N5O
